US04088771
This example illustrates methods according to the invention of preparing the methylenedioxy substituted phenyl compounds of the invention. In this example 9.0 g. of the dihydrochloride salt of β-methylamino-β-(3,4-methylenedioxyphenyl)-ethylamine is dissolved in 40 ml. of water. This solution is stirred and added successively to it is 150 ml. of isopropanol, 4.1 g. of sodium methoxide and finally 8 g. of a mixture of 1-mono and 1,3-bis(methoxycarbonyl)-S-methylisothiourea in 100 ml. of chloroform. The mixture is then stirred for 12 days at room temperature. It is then concentrated under vacuum affording a gummy residue which is then incompletely dissolved in 100 ml. of approximately 1N aqueous hydrochloric acid. The resulting mixture is first filtered and then washed with ethyl ether, heated with charcoal and filtered again. The crude product is then precipitated from the filtrate by addition of aqueous sodium bicarbonate. The precipitate is collected by filtration, stirred with distilled water, collected again and then dried under vacuum affording crude of 1-methyl-4,5-dihydro-5-(3,4-methylenedioxyphenyl)-2-methoxycarbonylaminoimidazole which is recrystallized from isopropanol yielding the purified product. A hydrogen-ion addition salt may be prepared according to the methods set forth in part A of Examples 1-3.

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | β-methylamino-β-(3,4-methylenedioxyphenyl)-ethylamine | CNC(CN)C1=CC2=C(C=C1)OCO2 | C10H14N2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 1,3-bis(methoxycarbonyl)-S-methylisothiourea | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
reactant | hydrochloric acid | approximately 1N | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | 1-methyl-4,5-dihydro-5-(3,4-methylenedioxyphenyl)-2-methoxycarbonylaminoimidazole | CN1C(=NCC1C1=CC2=C(C=C1)OCO2)NC(=O)OC | C13H15N3O4
